US04054667
In a 500 ml flask equipped with a reflux condenser, and magnetic stirring bar under a nitrogen atmosphere were placed 11 g (37.6 moles) of dibromocyclopropylphenol, 100 ml of toluene, and 50 g of 70% solution of "Red-Al" [sodium bis(2-methoxyethoxy aluminum hydride)] in benzene. The solution was then heated to reflux for 6 hours and allowed to stir overnight at room temperature. The reaction was then quenched with water and acidified with concentrated hydrochloric acid. The layers were separated and the aqueous layer extracted with 100 ml of ether. The organic layers were combined and washed with dilute base. The water layer was then acidified with concentrated hydrochloric acid and extracted with methylene dichloride. The methylene dichloride extract was dried over anhydrous magnesium sulfate and the solvent evaporated. A yield of 3 g of 4-cyclopropylphenol, an amber oil, was obtained.

reactant | dibromocyclopropylphenol | 37.6 moles, 11 g | BrC1=C(C(=C(C=C1)O)C1CC1)Br | C9H8Br2O
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | Red-Al | COCCO[AlH2-]OCCOC.[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-cyclopropylphenol | yield of 3 g | C1(CC1)C1=CC=C(C=C1)O | C9H10O
